US09326973B2
To a solution of ethyl 4-methylenecyclohexanecarboxylate (0.15 g, 0.892 mmol) in diglyme (3 mL) was added a solution of sodium 2-chloro-2,2-difluoroacetate (0.544 g, 3.57 mmol) in 5 ml of diglyme via syringe pump at 0.5 ml/h at 150° C. The reaction was cooled to rt, then diluted with DCM and washed with water, brine, dried over Na2SO4, filtered and concentrated. The residue was charged to a 40 g silica gel cartridge which was eluted with a 20 min gradient of 0-20% EtOAc in hexane to yield ethyl 1,1-difluorospiro[2.5]octane-6-carboxylate. 1H NMR (400 MHz, CDCl3) ppm 4.09-4.19 (2H, m), 2.29-2.45 (1H, m), 1.89-2.03 (2H, m), 1.55-1.72 (5H, m), 1.45-1.54 (1H, m), 1.31-1.39 (1H, m), 1.21-1.30 (3H, m), 0.84-0.94 (1H, m).

reactant | ethyl 4-methylenecyclohexanecarboxylate | 0.892 mmol, 0.15 g | C=C1CCC(CC1)C(=O)OCC | C10H16O2
reactant | sodium 2-chloro-2,2-difluoroacetate | 3.57 mmol, 0.544 g | ClC(C(=O)[O-])(F)F.[Na+]
solvent | diglyme | 3 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 5 ml | COCCOCCOC | C6H14O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | ethyl 1,1-difluorospiro[2.5]octane-6-carboxylate | FC1(CC12CCC(CC2)C(=O)OCC)F | C11H16F2O2
